US06235742B1
5-[4-(ethylamino)benzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one
N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}acetamide (2.37 g, 0.007 mol) was added to a mixture of lithium aluminium hydride (705 mg, 0.0186 mol) in tetrahydrofuran (250 ml), under a nitrogen atmosphere. After the effervescence had subsided, the reaction was refluxed for 2 hours. On cooling, the mixture was treated dropwise with aqueous sodium hydroxide solution (5M, 1.1 ml), and the resulting solid filtered and washed well with tetrahydrofuran (250 ml). The filtrate was concentrated under reduced pressure and the residue partitioned between ethyl acetate (100 ml) and water (100 ml). The aqueous phase was extracted with ethyl acetate (200 ml) and the organic phases combined, dried (MgSO4), filtered and concentrated under reduced pressure.

reactant | N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}acetamide | 0.007 mol, 2.37 g | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)NC(C)=O)CCC | C18H21N5O2
reactant | lithium aluminium hydride | 0.0186 mol, 705 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5M, 1.1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 5-[4-(ethylamino)benzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)NC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C18H23N5O
